US04665149
A. Preparation of Tetrabromobisphenol A/Cyanuric Chloride Adduct (9 Hydroxyl Groups Per Mole of Cyanuric Chloride)
To a reaction flask equipped with a stirrer, reflux condenser, a nitrogen purge, and a temperature controlling device, were added 25.0 grams (0.136 mole) of cyanuric chloride, 331.88 grams (0.61 mole) of tetrabromobisphenol A, and a 356.88 grams of methyl ethyl ketone. While maintaining the temperature at 30° C. 34.24 grams (0.428 mole) of 50% aqueous caustic was slowly added during about 30 minutes (1800 s). The reaction mixture was stirred for an additional hour (3600 s) at 30° C., then for an additional hour (3600 s) at 60° C. The mixture was then cooled, and neutralized with hydrochloric acid, then the salt removed via water washing, then the solvent removed via vacuum distillation to about 150° C. When cooled, the product was a solid with a Mettler softening point of 126.9° C.

reactant | cyanuric chloride | 0.136 mole, 25.0 grams | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | tetrabromobisphenol A | 0.61 mole, 331.88 grams | BrC1=C(C(=C(C(=C1O)Br)Br)C(C)(C)C1=CC=C(C=C1)O)Br | C15H12Br4O2
reactant | hydrochloric acid | Cl | ClH
solvent | methyl ethyl ketone | 356.88 grams | C(C)C(=O)C | C4H8O
product | Tetrabromobisphenol A Cyanuric Chloride | BrC1=C(C(=C(C(=C1O)Br)Br)C(C)(C)C1=CC=C(C=C1)O)Br.N1=C(Cl)N=C(Cl)N=C1Cl | InChI=1S/C15H12Br4O2.C3Cl3N3/c1-15(2,7-3-5-8(20)6-4-7)9-10(16)12(18)14(21)13(19)11(9)17;4-1-7-2(5)9-3(6)8-1/h3-6,20-21H,1-2H3;
